US08283359B2
2-Fluoro-4-iodo-1-isothiocyanatobenzene
Thiophosgene (3.55 mL, 46.4 mmol) was added to a rapidly-stirred mixture of 2-fluoro-4-iodoaniline (10.0 g, 42.2 mmol) in CHCl3 (200 mL) and water (100 mL). The mixture was stirred at r.t. for 16 h. The organic phase was dried (Na2SO4) and concentrated in vacuo to give the title compound as an off-white crystalline solid (11.8 g, quant.). δH (DMSO-d6) 7.87 (1H, dd, J 1.8, 9.5 Hz), 7.63 (1H, ddd, J 1.0, 1.8, 8.4 Hz), 7.25 (1H, dd, J 8.2, 8.4 Hz).

reactant | Thiophosgene | 46.4 mmol, 3.55 mL | C(=S)(Cl)Cl | CCl2S
reactant | 2-fluoro-4-iodoaniline | 42.2 mmol, 10.0 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 mL | O | H2O
product | 2-Fluoro-4-iodo-1-isothiocyanatobenzene | 11.8 g | FC1=C(C=CC(=C1)I)N=C=S | C7H3FINS
